US04426453
Preparation of 1,2-bis(2,6-dioxo-4-morpholinyl)ethane
To a 250 ml round bottomed flask fitted with a magnetic stirrer, condenser, and a drying tube (calcium chloride), was added pyridine (dried by distillation from potassium hydroxide) (80 ml). Ethylenediaminetetraacetic acid (29.12 g) was added followed by acetic anhydride (37.6 ml). The suspension was stirred and heated at 65°-80° C. for 7 hr. The mixture was cooled overnight and the white solid filtered off. The solid was washed once with pyridine (dry 20 ml) and four times with ether (dry 4×40 ml). The white solid was dried on a manifold and stored in a desiccator.

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | Ethylenediaminetetraacetic acid | 29.12 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | acetic anhydride | 37.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 1,2-bis(2,6-dioxo-4-morpholinyl)ethane | O=C1CN(CC(O1)=O)CCN1CC(OC(C1)=O)=O | C10H12N2O6
